US04767882
To a solution of (R)-3-carboxymethyl1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene ([α]546 -23.8° (C=1 in benzene)) (2.00 g; 7.69 mmol) in benzene (30 ml), lead tetraacetate (4.00 g; 9.02 mmol) and anhydrous lithium chloride (0.80 g; 18.9 mmol) were added, and the resultant mixture was refluxed for 6 hours. The reaction mixture was washed with water, dilute hydrochloric acid and 6% ammonia water in order. The benzene layer was dried, concentrated and purified on column chromatography to give (S)-3-chloromethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (1.22 g; 4.87 mmol). From the ammonia water layer, there was recovered the unreacted carboxylic acid (0.35 g; 1.34 mmol). The yield was 77% (based on the consumed carboxylic acid). [α]546 +26.1° (C=1 in n-hexane).

reactant | (R)-3-carboxymethyl1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 7.69 mmol, 2.00 g | C(=O)(O)C[C@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H24O2
reactant | lead tetraacetate | 9.02 mmol, 4.00 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | lithium chloride | 18.9 mmol, 0.80 g | [Cl-].[Li+]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (S)-3-chloromethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 4.87 mmol, 1.22 g, yield was 77% | ClC[C@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C16H23Cl
